US07629358B2
Preparation 54: ethyl(3-{2-[((2R)-2-[4-(benzyloxy)-3-(hydroxymethyl)phenyl]-2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)amino]ethyl}phenyl)acetate
Prepared according to the procedure used for preparation 22 using [2-(benzyloxy)-5-((1R)-2-bromo-1-{[tert-butyl(dimethyl)silyl]oxy}ethyl)phenyl]methanol (Preparation 23) and ethyl[3-(2-aminoethyl)phenyl]acetate (Preparation 58) to give the title compound as a yellow oil.

reactant | [2-(benzyloxy)-5-((1R)-2-bromo-1-{[tert-butyl(dimethyl)silyl]oxy}ethyl)phenyl]methanol | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)[C@H](CBr)O[Si](C)(C)C(C)(C)C)CO | C22H31BrO3Si
reactant | ethyl[3-(2-aminoethyl)phenyl]acetate | C(C)OC(CC1=CC(=CC=C1)CCN)=O | C12H17NO2
product | ethyl(3-{2-[((2R)-2-[4-(benzyloxy)-3-(hydroxymethyl)phenyl]-2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)amino]ethyl}phenyl)acetate | C(C)OC(CC1=CC(=CC=C1)CCNC[C@H](O[Si](C)(C)C(C)(C)C)C1=CC(=C(C=C1)OCC1=CC=CC=C1)CO)=O | C34H47NO5Si
